US07141596B2
Step 5. Methyl (2Z)-2-[(tert-butoxycarbonyl)amino]-3-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorophenyl]acrylate
Methyl [(tert-butoxycarbonyl)amino](dimethoxyphosphoryl)acetate (3.53 g, 11.9 mmol) in methylene chloride (180 mL) was treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (1.92 mL, 12.9 mmol). After five minutes 4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorobenzaldehyde (3.1 g, 9.9 mmol) was added and the solution stirred at rt for 1 h. The solution was diluted with methylene chloride (50 mL), washed with 1 N aqueous hydrochloric acid solution (250 mL), and the organic phase dried over sodium sulfate. Purification by silica gel chromatography (5–25% ethyl acetate:hexanes) afforded product as a white foam (3.7 g, 77%). 1H NMR (400 MHz, CDCl3): δ 7.35–7.29 (m, 3H), 7.17 (s, 1H), 5.04 (dd, J=9.0, 7.1 Hz, 1H), 3.87 (s, 3H), 3.29 (dd, J=17.2, 9.0 Hz, 1H), 3.17 (dd, J=17.2, 7.0 Hz, 1H), 1.65 (s, 9H), 1.39 (s, 9H). LCMS found for C22H30FN2NaO7S (M+Na)+: m/z=507.

reactant | Methyl [(tert-butoxycarbonyl)amino](dimethoxyphosphoryl)acetate | 11.9 mmol, 3.53 g | C(C)(C)(C)OC(=O)NC(C(=O)OC)P(=O)(OC)OC | C10H20NO7P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 12.9 mmol, 1.92 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorobenzaldehyde | 9.9 mmol, 3.1 g | C(C)(C)(C)N1S(C(CC1=O)C1=C(C=C(C=O)C=C1)F)(=O)=O | C14H16FNO4S
solvent | methylene chloride | 180 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | Methyl (2Z)-2-[(tert-butoxycarbonyl)amino]-3-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorophenyl]acrylate | 3.7 g, 77% | C(C)(C)(C)OC(=O)N\C(\C(=O)OC)=C/C1=CC(=C(C=C1)C1CC(N(S1(=O)=O)C(C)(C)C)=O)F | C22H29FN2O7S
